* SPICE3 file created from NAND5v.ext - technology: sky130A

.subckt x5v_nfet_1_2 B D G S
X0 D G S B sky130_fd_pr__nfet_g5v0d10v5 ad=2 pd=6 as=2 ps=6 w=2 l=1
.ends

.subckt x5v_pfet_1_2 B D G S
X0 D G S B sky130_fd_pr__pfet_g5v0d10v5 ad=2 pd=6 as=2 ps=6 w=2 l=1
.ends

.subckt NAND5v A B Y VDD VSS
X5v_nfet_1_2_0 VSS Y A 5v_nfet_1_2_1/D x5v_nfet_1_2
X5v_nfet_1_2_1 VSS 5v_nfet_1_2_1/D B VSS x5v_nfet_1_2
X5v_pfet_1_2_0 VDD Y A VDD x5v_pfet_1_2
X5v_pfet_1_2_1 VDD Y B VDD x5v_pfet_1_2
.ends

