* NGSPICE file created from NOT5V.ext - technology: sky130A

.subckt x5v_pfet_1_2 B D G S
X0 D G S B sky130_fd_pr__pfet_g5v0d10v5 ad=2 pd=6 as=2 ps=6 w=2 l=1
.ends

.subckt x5v_nfet_1_1 S B G D
X0 D G S B sky130_fd_pr__nfet_g5v0d10v5 ad=1 pd=4 as=1 ps=4 w=1 l=1
.ends

.subckt NOT5V X Y VDD VSS
X5v_pfet_1_2_0 VDD Y X VDD x5v_pfet_1_2
X5v_nfet_1_1_0 VSS VSS X Y x5v_nfet_1_1
.ends

